US07582753B2
2-[5-Cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-N-[3-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenyl]-acetamide
A 2L three-necked-reaction flask was charged with [5-cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-acetic acid (100 g, 243 mmol) and MeCN (600 mL). At room temperature SOCl2 (19.5 mL, 267.3 mmol) was added via addition funnel. In a 3L three-necked-flask a slurry of 3-(3-amino-phenyl)-4H-[1,2,4]oxadiazol-5-one hydrochloride salt (53.47 g, 250.3 mmol) in MeCN (300 mL) was treated with DIPEA (148 mL, 851 mmol) at room temperature, then cooled to −10° C. The solution of the acid chloride was then added to the amine solution to maintain the temperature below −5° C. Upon consumption of starting material (30 minutes) the reaction mixture was quenched by addition of 1N HCl (650 mL) followed by addition of water (300 mL). The reaction mixture was allowed to warm to room temperature and stirred overnight. The resulting suspension was then cooled in an ice bath (1 h) and the solid collected by vacuum filtration and washed with MeCN (50 mL) to yield the title compound as an off white solid.

reactant | [5-cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-acetic acid | 243 mmol, 100 g | C1(CCCCC1)C=1C2=C(N(C(N(N1)CC(=O)O)=O)CC(=O)C1CCCC1)C=CC=C2 | C23H29N3O4
reactant | SOCl2 | 267.3 mmol, 19.5 mL | O=S(Cl)Cl | Cl2OS
reactant | 3-(3-amino-phenyl)-4H-[1,2,4]oxadiazol-5-one hydrochloride salt | 250.3 mmol, 53.47 g | Cl.NC=1C=C(C=CC1)C1=NOC(N1)=O
reactant | DIPEA | 851 mmol, 148 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeCN | 300 mL | CC#N | C2H3N
solvent | MeCN | 600 mL | CC#N | C2H3N
product | 2-[5-Cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-N-[3-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenyl]-acetamide | C1(CCCCC1)C=1C2=C(N(C(N(N1)CC(=O)NC1=CC(=CC=C1)C1=NOC(N1)=O)=O)CC(=O)C1CCCC1)C=CC=C2 | C31H34N6O5
